US07034016B2
Azetidin-3-ylmethyldimethylamine, dihydrochloride
Hydrogen chloride in methanol was added to a mixture of [1-(1,1-diphenylmethyl)azetidin-3-ylmethyl]dimethylamine (9.9 g, 35 mmol) in methanol (150 mL) until pH=4. Palladium hydroxyde (1.5 g, 20%) was added and the resulting mixture hydrogenated at room temperature at 50 p.s.i. for 4 days. The mixture was filtered through Celite and the filtrate evaporated under reduced pressure to give the title compound (5.0 g, 76%) as a white solid.

reactant | Hydrogen chloride | Cl | ClH
reactant | [1-(1,1-diphenylmethyl)azetidin-3-ylmethyl]dimethylamine | 35 mmol, 9.9 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N1CC(C1)CN(C)C | C19H24N2
solvent | methanol | CO | CH4O
solvent | methanol | 150 mL | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | Azetidin-3-ylmethyldimethylamine, dihydrochloride | 5.0 g, 76% | Cl.Cl.N1CC(C1)CN(C)C | InChI=1S/C6H14N2.2ClH/c1-8(2)5-6-3-7-4-6;;/h6-7H,3-5H2,1-2H3;2*1H
